US09399623B2
6-Chloro-2-(3,3-difluoroazetidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxycyclohexylmethyl)-amide (75)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxycyclohexylmethyl)-amide, DIPEA and 3,3-difluoroazetidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.94 (m, 1H), 7.66 (2H), 7.05 (1H), 4.57 (m, 4H), 3.49 (m, 2H), 2.44 (m, 2H), 2.06 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 5H), 1.27-1.32 (m, 2H). m/z: 446 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxycyclohexylmethyl)-amide | FC1(CC(CCC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3-difluoroazetidine | FC1(CNC1)F | C3H5F2N
product | 6-Chloro-2-(3,3-difluoroazetidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-1-hydroxycyclohexylmethyl)-amide | FC1(CC(CCC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(C1)(F)F)F | C20H20ClF4N3O2
